US05703110
2-Propoxybenzimidazole
To a solution of o-phenylenediamine (2 g) in propyl orthocarbonate (5 ml) was added acetic acid (1.1 ml) and the solution was stirred at 80° C. for 3 hours. To the reaction mixture was added ethyl acetate, and the solution was washed with an aqueous solution of sodium hydrogen carbonate and water, then dried (Na2SO4), followed by concentration to dryness. The concentrate was purified by column chromatography on silica gel to give crystals. Recrystallization from ethyl acetate-benzene afforded colorless crystals (1.54 g, 47%), m.p. 163°-164° C.

reactant | o-phenylenediamine | 2 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | acetic acid | 1.1 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | propyl orthocarbonate | 5 ml | C(OCCC)([O-])([O-])[O-]
product | 2-Propoxybenzimidazole | C(CC)OC=1NC2=C(N1)C=CC=C2 | C10H12N2O
